US07943636B2
A solution of 1-tetrahydro-4H-pyran-4-ylideneacetone (4.0 g, 28.5 mmol) in ethyl acetate was added to a Parr vessel. The vessel was purged with nitrogen, and 10% palladium on carbon (400 mg) was added. The vessel was shaken under hydrogen pressure (50 psi, 3.4×105 Pa) for approximately ten minutes, and the reaction mixture was filtered through a layer of CELITE filter agent. The filter cake was washed with ethyl acetate. The filtrate was concentrated under reduced pressure, and the residue was dried under a stream of nitrogen to provide 3.80 g of 1-tetrahydro-2H-pyran-4-ylacetone as a colorless oil.

reactant | 1-tetrahydro-4H-pyran-4-ylideneacetone | 28.5 mmol, 4.0 g | O1CCC(CC1)=CC(=O)C | C8H12O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tetrahydro-2H-pyran-4-ylacetone | 3.80 g | O1CCC(CC1)CC(=O)C | C8H14O2
